US03985777
A. 3-nitro-4-phenoxy-5-sulphamyl-benzoyl chloride
A mixture of 3-nitro-4-phenoxy-5-sulphamyl-benzoic acid (5 g) and thionyl chloride (50 ml) was heated on a steam bath for 5 hours. After evaporation in vacuo to dryness, the compound was obtained as a crude product, which was used in the next step without further purification.

reactant | 3-nitro-4-phenoxy-5-sulphamyl-benzoic acid | 5 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C13H10N2O7S
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-nitro-4-phenoxy-5-sulphamyl-benzoyl chloride | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C13H9ClN2O6S
